US05849779
Sodium (1.9 g) was dissolved in anhydrous ethanol (100 ml) to prepare a solution of sodium ethoxide. To this, were added 3-amino-4-ethoxycarbonylpyrazole (12.4 g) and benzyl chloride (10 g), and the resulted mixture was refluxed for 1 h. After filtration of the hot mixture, the filtrate was concentrated to quarter volume, and cooled to crystallize. The crude product was recrystallized from an ether-water mixture to give 3-amino-1-benzyl-4-ethoxycarbonylpyrazole (10.7 g, yield 44%). To a solution of 3-amino-1-benzyl-4-ethoxycarbonylpyrazole (0.2 g) in dried toluene (30 ml), were added propyl isocyanate (0.307 ml) and triethylamine (0.11 ml), and the mixture was refluxed in a sealed tube for 8 h. The reaction mixture was evaporated under reduced pressure followed by silica-gel column chromatography (toluene : ethyl acetate=20:1) to give the title compound (0.129 g, yield 48%). 1H-NMR (CDCl3) δ ppm: 0.92 (3H, t, J=7Hz, CH2CH2CH3 ), 1.32 (3H, t, J=7Hz, COOCH2CH3 ), 1.57 (2H, 6th, CH2CH2CH3), 4.28 (2H, q, J=7Hz, COOCH2CH3), 5.14 (2H, s, CH2 --Ph), 7.25 (5H, m, CH2 --Ph), 7.91 (2H, brs, NH), 8.00 (1H, s, C5-H)

reactant | Sodium | 1.9 g | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-amino-4-ethoxycarbonylpyrazole | 12.4 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | benzyl chloride | 10 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-amino-1-benzyl-4-ethoxycarbonylpyrazole | 10.7 g, yield 44% | NC1=NN(C=C1C(=O)OCC)CC1=CC=CC=C1 | C13H15N3O2
